US04618677
Utilizing the procedure described in Example 1(b), 6.0 g of thiourea, was reacted with 25.2 g of 1-(4-chlorobenzyl-4-(3-chloropropyl)piperazine dihydrochloride and 8.7 g of triethylamine in 200 ml of reagent ethanol. The hydrolysis was effected with 5.0 g of sodium hydroxide in 50 ml of water. Work-up as described above gave 16.6 g (75% of theory) of 3-[4-(4-chlorobenzyl)piperazine-1-yl]propanethiol dihydrochloride as an off-white crystalline solid, M.p. 257°-260° C.

reactant | thiourea | 6.0 g | NC(=S)N | CH4N2S
reactant | 4-chlorobenzyl-4-(3-chloropropyl)piperazine dihydrochloride | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCCl)C=C1
reactant | triethylamine | 8.7 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(4-chlorobenzyl)piperazine-1-yl]propanethiol dihydrochloride | 16.6 g, 75% | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1 | InChI=1S/C14H21ClN2S.2ClH/c15-14-4-2-13(3-5-14)12-17-9-7-16(8-10-17)6-1-11-18;;/h2-5,18H,1,6-12H2;2*1H
